US07615642B2
Step B: N-isopropyl-1H-pyrrole-3-carboxamide
DIPEA (284 mg, 381 uL, 2.2 mmol) was added to a solution of 1H-pyrrole-3-carboxylic acid (111 g, 1.0 mmol) and isopropylamine (118 mg, 170 uL, 2.0 mmol) in DMF (10 mL) at 0° C. Stirring for 20 min, HATU (570 g, 1.5 mmol) was added at 0° C. The reaction mixture was stirred overnight at room temperature, diluted with EtOAc (100 mL), washed with H2O (3×10 mL) and dried over Na2SO4. The crude product was purified by MPLC using EtOAc on silica gel. Yield: 80 mg (52%). 1H NMR (400 MHz, CHLOROFORM-D) δ 1.19 (d, J=6.64 Hz, 6 H), 3.95-4.31 (m, 1 H), 6.52 (dd, J=2.93, 1.56 Hz, 1 H), 6.70 (dd, J=2.93, 2.15 Hz, 1 H), 7.31 (t, J=1.76 Hz, 1 H), 7.58 (s, 1 H).

reactant | DIPEA | 2.2 mmol, 381 uL, 284 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1H-pyrrole-3-carboxylic acid | 1.0 mmol, 111 g | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | isopropylamine | 2.0 mmol, 170 uL, 118 mg | C(C)(C)N | C3H9N
reactant | HATU | 1.5 mmol, 570 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-isopropyl-1H-pyrrole-3-carboxamide | C(C)(C)NC(=O)C1=CNC=C1 | C8H12N2O
